US04585575
6-Heptyl-2-naphthalenecarboxamidine hydrochloride (4.0 g, 13 mmols), α-cyano-β-dimethylaminoacrolein (1.6 g, 13 mmols), triethylamine (30 ml) and pyridine (30 ml) were placed in a flask, followed by heating under reflux with stirring for 6 hours, cooling down to room temperature, and pouring the reaction mixture into water (500 ml) to deposit white solids, which were then separated by filtration and dissolved in toluene (100 ml), followed by washing the toluene layer with water, drying over anhydrous sodium sulfate and distilling off toluene under reduced pressure to obtain solids, which were recrystallized from a mixed solvent of ethanol-ethyl acetate (1:1) to obtain the objective 2-heptyl-6-(5-cyano-2-pyrimidinyl)naphthalene (3.0 g, 9.2 mmols) (yield: 70%). This product exhibited a liquid crystalline phase, and its crystalline-smectic phase transition point (C-S point) was 124.6°-125.6° C.; its smectic-nematic phase transition point (S-N point), 153.9°-154.1° C.; and its nematic-isotropic phase transition point (N-I point), 163.5°-163.7° C.

reactant | 6-Heptyl-2-naphthalenecarboxamidine hydrochloride | 13 mmols, 4.0 g | Cl.C(CCCCCC)C=1C=C2C=CC(=CC2=CC1)C(=N)N
reactant | triethylamine | 30 ml | C(C)N(CC)CC | C6H15N
reactant | pyridine | 30 ml | N1=CC=CC=C1 | C5H5N
solvent | water | 500 ml | O | H2O
product | 2-heptyl-6-(5-cyano-2-pyrimidinyl)naphthalene | 9.2 mmols, 3.0 g, yield: 70% | C(CCCCCC)C1=CC2=CC=C(C=C2C=C1)C1=NC=C(C=N1)C#N | C22H23N3
